US08193199B2
2-((8-amino-3-(2-chlorophenyl)quinoxalin-2-yl)methyl)isoindoline-1,3-dione (1.1337 g, 2.733 mmol) was dissolved in acetone (39.04 mL, 2.733 mmol) and cooled to 0° C. While being stirred, the solution was treated first with 2 M hydrochloric acid (7.652 mL, 15.30 mmol) and then dropwise with 1 M aq. sodium nitrite (5.466 mL, 5.466 mmol) while maintaining the temperature of the mixture at 0° C. After the additions were complete, the mixture was stirred for 15 min and then treated with 5 M aq. potassium iodide (5.411 mL, 27.06 mmol) maintaining the temperature below 5° C. The mixture was then allowed to warm to 15° C. over 3.5 h. The acetone was removed under reduced pressure, and the residue was partitioned between water (100 mL) and ethyl acetate (100 mL). The organic solution was washed with 10% aqueous sodium bisulfite (100 mL×1) and saturated aqueous sodium bicarbonate (100 mL×1), brine (100 mL×1), dried over MgSO4, filtered, and concentrated under reduced pressure to give a dark violet syrupy solid. The dark violet syrupy solid was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 15 min and then 50% isocratic of EtOAc in hexane for 25 min as eluent to give 2-((3-(2-chlorophenyl)-8-iodoquinoxalin-2-yl)methyl)-isoindoline-1,3-dione as a solid: LC-MS (ESI) m/z 526.0 [M+H]+.

reactant | 2-((8-amino-3-(2-chlorophenyl)quinoxalin-2-yl)methyl)isoindoline-1,3-dione | 2.733 mmol, 1.1337 g | NC=1C=CC=C2N=C(C(=NC12)CN1C(C2=CC=CC=C2C1=O)=O)C1=C(C=CC=C1)Cl | C23H15ClN4O2
reactant | acetone | 2.733 mmol, 39.04 mL | CC(=O)C | C3H6O
reactant | hydrochloric acid | 15.30 mmol, 2 M, 7.652 mL | Cl | ClH
reactant | sodium nitrite | 5.466 mmol, 1 M, 5.466 mL | N(=O)[O-].[Na+]
reactant | potassium iodide | 27.06 mmol, 5 M, 5.411 mL | [I-].[K+]
product | 2-((3-(2-chlorophenyl)-8-iodoquinoxalin-2-yl)methyl)-isoindoline-1,3-dione | ClC1=C(C=CC=C1)C=1C(=NC2=C(C=CC=C2N1)I)CN1C(C2=CC=CC=C2C1=O)=O | C23H13ClIN3O2
